US08633173B2
A mixture of 4-(Divinyl-phosphinoyl)nitro benzene (1.69 g, 7.56 mmol), water (10 mL), 1.0 M of sodium hydroxide in water (7.56 mL, 7.56 mmol) and tetrahydrofuran (10.0 mL, 123 mmol) was treated with ethylamine hydrochloride (678 mg, 8.32 mmol) then heated at 105° C. for one hour. An additional portion of ethylamine hydrochloride was added and the reaction was heated for an additional 2 hours. The reaction was cooled, poured into saturated sodium bicarbonate solution and extracted with dichloromethane. The aqueous layer was treated with solid sodium chloride and extracted and additional 4 times to isolate all the product. The combined organic layers were dried over magnesium sulfate, filtered and evaporated. The residue was purified via chromatography (40 g silica gel and 0%→10% methanol in dichloromethane). 1-Ethyl-4-(4-nitro-phenyl)-perhydro-1,4-azaphosphorine 4-oxide was isolated as yellow oil (300 mg, 10%). 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 8.34 (d, J=8.4 Hz, 2H), 8.11 (t, J=18.46, 9.15 Hz, 2H), 2.91-2.75 (m, 4H), 2.51-2.46 (m, 2H), 2.29 (m, 2H), 1.96 (m, 2H), 1.01 (t, J=14.4, 7.5 Hz, 3H). MS=269 (MH)+.

reactant | 4-(Divinyl-phosphinoyl)nitro benzene | 7.56 mmol, 1.69 g | C(=C)P(=O)(C1=CC=C(C=C1)[N+](=O)[O-])C=C | C10H10NO3P
reactant | sodium hydroxide | 1.0 M | [OH-].[Na+]
reactant | tetrahydrofuran | 123 mmol, 10.0 mL | O1CCCC1 | C4H8O
reactant | ethylamine hydrochloride | 8.32 mmol, 678 mg | Cl.C(C)N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 10 mL | O | H2O
solvent | water | 7.56 mmol, 7.56 mL | O | H2O
product | 1-Ethyl-4-(4-nitro-phenyl)-perhydro-1,4-azaphosphorine 4-oxide | C(C)N1CCP(CC1)(C1=CC=C(C=C1)[N+](=O)[O-])=O | C12H17N2O3P
